US06953857B2
3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methyl-N-[1-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-piperidin-4-ylmethyl]-benzamide
3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methyl-benzoic acid (200 mg, 0.615 mmol) was dissolved in 5 ml DMF. After cooling to −15° C. HATU (257.34 mg, 0.676 mmol) and N-ethylmorpholine (283.3 mg, 2.46 mmol) were added. The mixture was stirred at 0° C. for 15 min. and 30 min. at room temperature. C-[1-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-piperidin-4-yl]-methylamine; compound with trifluoro-acetic acid (254.4 mg, 0.615 mmol) was added and the mixture stirred for 1 hour and evaporated under reduced pressure. The residue was dissolved in sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was dried with MgSO4 and evaporated. The crude material was used without further purification.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methyl-benzoic acid | 0.615 mmol, 200 mg | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1C | C16H14Cl2O3
reactant | HATU | 0.676 mmol, 257.34 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethylmorpholine | 2.46 mmol, 283.3 mg | C(C)N1CCOCC1 | C6H13NO
reactant | C-[1-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-piperidin-4-yl]-methylamine; compound with trifluoro-acetic acid | 0.615 mmol, 254.4 mg | FC(C(=O)O)(F)F.ClC(C1=NC(=NO1)N1CCC(CC1)CN)(Cl)Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methyl-N-[1-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-piperidin-4-ylmethyl]-benzamide | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NCC2CCN(CC2)C2=NOC(=N2)C(Cl)(Cl)Cl)C=CC1C | C25H25Cl5N4O3
